US05837878
Methyl N-(benzyloxycarbonyl)-4-aminomethylsalicylate (6.06 g, 19.2 mmoles) was dissolved in acetone (150 mL), and benzyl bromide (2.60 mL, 21.9 mmoles) and anhydrous potassium carbonate (13.28 g, 96.1 mmoles) were added. The mixture was stirred and heated at reflux for 22 hours. The mixture was concentrated to remove most of the acetone, and ethyl acetate (100 mL) was added. Aqueous hydrochloric acid (1N, 200 mL) was added slowly, swirling frequently to dissolve the solid carbonate. The layers were separated, and the aqueous layer was extracted with ethyl acetate (50 mL). The ethyl acetate solutions were combined and washed with water (100 mL) and saturated aqueous sodium chloride (50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to about 50 mL. This solution was heated to boiling, and hexanes (150 mL) were added. The solution was cooled in ice, and crystals slowly formed. The crystals were collected by filtration, washed with hexanes, and dried in vacuo to afford 6.97 g (89% yield) of methyl N-(benzyloxycarbonyl)-4-aminomethyl-2-O-benzylsalicylate (m.p. 106°-107° C., open capillary, uncorrected).

reactant | Methyl N-(benzyloxycarbonyl)-4-aminomethylsalicylate | 19.2 mmoles, 6.06 g | C(C1=CC=CC=C1)OC(=O)NCC=1C=C(C(C(=O)OC)=CC1)O | C17H17NO5
reactant | benzyl bromide | 21.9 mmoles, 2.60 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 96.1 mmoles, 13.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | methyl N-(benzyloxycarbonyl)-4-aminomethyl-2-O-benzylsalicylate | 6.97 g, 89% yield | C(C1=CC=CC=C1)OC(=O)NCC=1C=C(C(C(=O)OC)=CC1)OCC1=CC=CC=C1 | C24H23NO5
